US05051422
4-(3-Aminophenyl)-2-piperazinemethanol
In a manner similar to Preparation 18, react 4-(3-aminophenyl)-2-piperazinecarboxylic acid with borane dimethylsulfide to obtain the title compound.

reactant | 4-(3-aminophenyl)-2-piperazinecarboxylic acid | NC=1C=C(C=CC1)N1CC(NCC1)C(=O)O | C11H15N3O2
reactant | borane dimethylsulfide | CSC.B
product | 4-(3-Aminophenyl)-2-piperazinemethanol | NC=1C=C(C=CC1)N1CC(NCC1)CO | C11H17N3O
